US07419997B2
N-Phenyl-N′-(2,3,4,9-tetrahydro-1H-carbazol-1-yl)urea was prepared from 2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride and phenyl isocyanate in a similar manner as described above to give a white solid (60% yield). 1H-NMR (DMSO-d6): δ 10.72 (s, 1H), 8.28 (s, 1H), 7.43-7.33 (m, 3H), 7.29-7.17 (m, 3H), 7.00 (m, 1H), 6.94-6.83 (m, 2H), 6.52 (d, 1H), 4.95 (m, 1H), 2.62 (m, 2H), 1.99 (m, 1H), 1.88-1.70 (m, 3H); MS m/z 304 (M−1).

reactant | 2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride | Cl.C1(CCCC=2C3=CC=CC=C3NC12)N
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | N-Phenyl-N′-(2,3,4,9-tetrahydro-1H-carbazol-1-yl)urea | C1(=CC=CC=C1)NC(=O)NC1CCCC=2C3=CC=CC=C3NC12 | C19H19N3O
